* E:\WK\Google Drive - ITBA\ITBA - Me\2021A\Analisis de Senales y Sistemas Digitales\TP\ASSD-G4\TP1\filter\Simulation\filterCelada.asc
V1 vin 0 AC 1
V2 vcc+ 0 12
V3 0 vcc- 12
R1 N003 vin {mc{R1,tolR}}
R2 N012 N003 {mc{R1,tolR}}
XU1 N012 N009 vcc+ vcc- N004 TL082
C1 N004 N003 {mc{C,tolC}}
C2 N012 0 {mc{C,tolC}}
R3 N004 N009 {mc{Ra1,tolR}}
R4 0 N009 {mc{Rb,tolR}}
R5 N005 N004 {mc{R2,tolR}}
R6 N013 N005 {mc{R2,tolR}}
C3 N006 N005 {mc{C,tolC}}
C4 N013 0 {mc{C,tolC}}
R7 N006 N010 {mc{Ra2,tolR}}
R8 0 N010 {mc{Rb,tolR}}
R9 N007 N006 {mc{R3,tolR}}
R10 N014 N007 {mc{R3,tolR}}
C5 N008 N007 {mc{C,tolC}}
C6 N014 0 {mc{C,tolC}}
R11 N008 N011 {mc{Ra3,tolR}}
R12 0 N011 {mc{Rb,tolR}}
XU5 0 N016 vcc+ vcc- N018 TL082
XU6 0 N019 vcc+ vcc- N020 TL082
XU7 0 N021 vcc+ vcc- N017 TL082
R13 N016 vin {mc{Rt2,tolR}}
C7 N018 N016 {mc{C,tolC}}
C8 N020 N019 {mc{C,tolC}}
R14 N018 N016 {mc{Rt1,tolR}}
R15 N019 N018 {mc{Rt2,tolR}}
R16 N021 N020 {mc{Rb,tolR}}
R17 N017 N021 {mc{Rb,tolR}}
R18 N017 N016 {mc{Rt2,tolR}}
XU3 N002 N001 vcc+ vcc- N001 TL082
XU9 N015 v3 vcc+ vcc- v3 TL082
R19 N002 0 1k
R20 N002 NC_01 1k
R23 N015 0 100k
R24 N015 N008 1k
XU2 N013 N010 vcc+ vcc- N006 TL082
XU4 N014 N011 vcc+ vcc- N008 TL082
XU8 N022 v0 vcc+ vcc- v0 TL082
R21 N022 0 1k
R22 N022 N017 10k
.ac dec 1000 1k 1meg
.inc "TL082.301"
.param Rb = 10k
.param R1 = 3.56k
.param Ra1 = 1.82k
.param R2 = 2.47k
.param Ra2 = 9.58k
.param R3 = 1.84k
.param Ra3 = 14.97k
.param Rt1 = 10.41k
.param C = 1n
.param Rt3 = 5.56k
.param tolR = 0.05
.param tolC = 0.2
* .step param run 1 100 1
.param Rt2 = 1.59k
.backanno
.end
