* E:\WK\Google Drive - ITBA\ITBA - Me\2021A\Analisis de Senales y Sistemas Digitales\TP\ASSD-G4\TP1\filter\Simulation\filterCelada.asc
V1 vintt 0 AC 1
V2 vcc+ 0 15
V3 0 vcc- 15
R1 N022 vin.55 {mc{R1,tolR}}
R2 N025 N022 {mc{R1,tolR}}
XU1 N025 N024 vcc+ vcc- vo.55 TL082
C1 vo.55 N022 {mc{C,tolC}}
C2 N025 0 {mc{C,tolC}}
R3 vo.55 N024 {mc{Ra1,tolR}}
R4 0 N024 {mc{Rb,tolR}}
R5 N018 vo.55 {mc{R2,tolR}}
R6 N021 N018 {mc{R2,tolR}}
C3 vin1.99 N018 {mc{C,tolC}}
C4 N021 0 {mc{C,tolC}}
R7 vin1.99 N020 {mc{Ra2,tolR}}
R8 0 N020 {mc{Rb,tolR}}
R9 N009 vin1.99 {mc{R3,tolR}}
R10 N013 N009 {mc{R3,tolR}}
C5 vo N009 {mc{C,tolC}}
C6 N013 0 {mc{C,tolC}}
R11 vo N012 {mc{Ra3,tolR}}
R12 0 N012 {mc{Rb,tolR}}
XU5 0 N001 vcc+ vcc- N002 TL082
XU6 0 N004 vcc+ vcc- N005 TL082
XU7 0 N006 vcc+ vcc- vott TL082
R13 N001 vintt {mc{Rt3,tolR}}
C7 N002 N001 {mc{C2,tolC}}
C8 N005 N004 {mc{C2,tolC}}
R14 N002 N001 {mc{Rt1,tolR}}
R15 N004 N002 {mc{Rt4,tolR}}
R16 N006 N005 {mc{Rb,tolR}}
R17 vott N006 {mc{Rb,tolR}}
R18 vott N001 {mc{Rt2,tolR}}
XU9 vo N011 vcc+ vcc- N011 TL082
R23 N010 0 1k
R24 N010 NC_01 1k
XU2 N021 N020 vcc+ vcc- vin1.99 TL082
XU4 N013 N012 vcc+ vcc- vo TL082
XU8 vott N007 vcc+ vcc- N007 TL082
R21 N016 0 1k
R22 N016 NC_02 1k
XU10 vo.55 N023 vcc+ vcc- N023 TL082
XU11 vin1.99 N019 vcc+ vcc- N019 TL082
R25 N014 NC_03 3.3k
R26 N017 N014 16k
R27 N015 N014 3.3k
C9 N014 0 6.8n
C10 N015 N017 6.8p
XU12 0 N017 vcc+ vcc- N015 TL082
R19 N008 0 1k
R20 N008 NC_04 9k
XU3 0 N003 vcc+ vcc- vin.55 TL082
R28 vin.55 N003 10k
R29 N003 vott 10k
.ac dec 1000 1k 1meg
.inc "TL082.301"
.param Rb = 10k
.param R1 = 3.5k
.param Ra1 = 1.82k
.param R2 = 2.4k
.param Ra2 = 9.58k
.param R3 = 1.8k
.param Ra3 = 14.97k
.param C =1n
.param tolR = 0.05
.param tolC = 0.1
.step param run 1 100 1
* .param C2 = 1n\n \n.param Rt1 = 10.41k\n.param Rt2 = 1k\n.param Rt3 = 5.56k\n.param Rt4 = 2.51k
* .param Rt1 = 220
* .param Rt3 = 193.52
* .param Rt2 = 33.7
* .param C2 = 47n
* .param Rt4 = 33.7
* .param C2 = 15n\n \n.param Rt1 =6.953334120265714e+02\n.param Rt2 = 1.056737708247069e+02\n.param Rt3 = 6.102556663390721e+02\n.param Rt4 = 1.056737708247069e+02
.param C2 = 12n
.param Rt1 =869
.param Rt2 = 132
.param Rt3 = 763
.param Rt4 = 132
.backanno
.end
